datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)[H])CCCCCC)[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])[H])CCCCCC)CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH]C(C7=CC=CC=C7)C(CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O]C(C)C([H])[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C(CCC)[O:10]1>>[O-:10]C(CCC)C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][O:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])[H])CCCCCC>>[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CCCCCC.[Cl-:21] 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)[H].[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CC)[H] 21=20;20,10=10"
"CN([C:20](=[O:10])OC(C(C([O-:21])CC)C)CC)C>>CN([C:20]1(OC(C(C([O:21]1)CC)C)CC)[O-:10])C 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C([H])[O]1)[C:20]1([NH:21][H])[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C([H])[O][C:20]([O]CC)=[NH+:21][H] 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)CC)CC.[O-:21]CC>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)CC)CC 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[Na][O+:21]([C:20]([O-:10])(OC1=CC=CC=C1)OC1=CC=CC=C1)C>>[Na][O:21]C.[C:20](=[O:10])(OC1=CC=CC=C1)OC1=CC=CC=C1 10=20;20,21=21"
"[H][S+:10](C([H])C(C)C([H])[O]1)[C:20]1([O:21]C)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][S:10]C([H])C(C)C([H])[O][C:20]([S]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)[H])CC.[O-:21]C1=CC=CC=C1>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)[H])CC 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C([O:21]1)CCCCCC)CCCCCC)[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])CCCCCC)CCCCCC)C 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C([H])C(C)N1C>>[O-:10]C([H])C(C)N([C:20]([H])=[O:21])C 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])[H] 21=20;20,10=10"
"[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CCCCCC)[H])CC>>[H]C1C(C(O[C:20](=[O:10])N1C)[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C)[CH](C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C([H])C([H])[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C([H])C([H])[O]2.[H][NH:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C7=CC=CC=C7)[CH](C)C(CC)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C7=CC=CC=C7)C(C)[CH](CC)[S]1 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"C[O:10][H].[H][NH+:21]=[C:20]([O]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([NH:21][H])([O]C8=CC=CC=C8)[NH]C 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CC)[O-:10])CC>>CCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CC)CC 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CC)CCCCCC.[O-:21][H]>>CC1C(O[C:20](N1CC)([O-:10])[O:21][H])CCCCCC 21=20;20,10=10"
"[H][O+:10]([H])[C:20]1([O:21]C)[S][CH]([H])C(C)[CH](CC)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH]([H])[CH](C)C(CC)[S]2.[H][O:10][H] 21=20;20,10=10"
